US05646173
385 mg of N-[2-(1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide were heated to 140° for 22 hours under argon in 6 ml of ethylene glycol/water 2:1 in the presence of 540 mg of potassium hydroxide. The mixture was left to cool and was treated with 20 ml of semi-saturated sodium chloride solution. The mixture was extracted three times with diethyl ether and the combined extracts were dried over sodium sulfate, filtered and evaporated. The brown oil was dissolved in 5 ml of methanol and treated with 185 mg of fumaric acid, whereby pale brown crystals separated. These were dissolved in 50 ml of warm methanol. After cooling to room temperature, the product was crystallized by the slow addition of 50 ml of diethyl ether. The product obtained was heated in 15 ml of tert.-butyl methyl ether for 1 hour, filtered off under suction and dried in a vacuum. 220 mg (53%) of 2-(1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethylamine fumarate with m.p. 201°-202° were obtained.

reactant | N-[2-(1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethyl]-acetamide | 385 mg | N1(C2=C(C=C1)CC1=CC=CC=C12)CCNC(C)=O | C15H16N2O
reactant | potassium hydroxide | 540 mg | [OH-].[K+]
reactant | sodium chloride | 20 ml | [Cl-].[Na+]
reactant | ethylene glycol water | 6 ml | C(CO)O.O
solvent | tert.-butyl methyl ether | 15 ml | COC(C)(C)C | C5H12O
product | 2-(1,4-dihydro-indeno[1,2-b]pyrrol-1-yl)-ethylamine fumarate | 220 mg, 53% | C(\C=C\C(=O)O)(=O)O.N1(C2=C(C=C1)CC1=CC=CC=C12)CCN | InChI=1S/C13H14N2.C4H4O4/c14-6-8-15-7-5-11-9-10-3-1-2-4-12(10)13(11)15;5-3(6)1-2-4(7)8/h1-5,7H,6,8-9,14H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
